US07700598B2
46a methyl 2-acetylamino-3-(3,5-bis-trifluoromethyl-phenyl)acrylate
Under a nitrogen atmosphere 50.0 g (171 mmol) 3,5-bis-(trifluoromethyl)-bromobenzene, 25.0 g (171 mmol) methyl 2-acetylamino-acrylate in 475 mL triethylamine and 250 mL acetonitrile were combined with 3.9 g (12.4 mmol) tri-o-tolyl-phosphane and 2.8 g (12.5 mmol) Pd(OAc)2 and stirred for 18 h at 80° C. After the reaction had ended the reaction mixture was evaporated down i. vac. to approx. 200 mL, combined with 400 mL EtOAc and 400 mL water, the precipitate was suction filtered and the phases were separated. The organic phase was dried over Na2SO4, combined with activated charcoal, filtered and evaporated to dryness. The residue was stirred with DIPE, suction filtered and dried i. vac.

reactant | 3,5-bis-(trifluoromethyl)-bromobenzene | 171 mmol, 50.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | methyl 2-acetylamino-acrylate | 171 mmol, 25.0 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | tri-o-tolyl-phosphane | 12.4 mmol, 3.9 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 475 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 12.5 mmol, 2.8 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 2-acetylamino-3-(3,5-bis-trifluoromethyl-phenyl)acrylate | C(C)(=O)NC(C(=O)OC)=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H11F6NO3
